US07479501B2
4,4-Dimethoxy-1-pyridin-4-yl-butane-1,3-dione
A solution of 4-acetylpyridine (12 g) in dry tetrahydrofuran (500 ml), under nitrogen and at −60° C., was treated with a solution of lithium bis(trimethylsilyl)amide in hexane (200 ml, 1M). The mixture was allowed to warm to −40° C. then treated with methyl dimethoxyacetate (12 ml). After standing at room temperature for 16 hours the reaction mixture was evaporated and the residue was triturated with diethyl ether to give the title compound as a yellow solid (22 g).

reactant | 4-acetylpyridine | 12 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl dimethoxyacetate | 12 ml | COC(C(=O)OC)OC | C5H10O4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | hexane | 1M, 200 ml | CCCCCC | C6H14
product | 4,4-Dimethoxy-1-pyridin-4-yl-butane-1,3-dione | 22 g | COC(C(CC(=O)C1=CC=NC=C1)=O)OC | C11H13NO4
